US07425568B2
To solution of 3-(4-methoxyphenyl)-2-phenylpropionic acid (4.6 g) in dry methylenechloride (26 ml) was added two drops of dry DMF. Thionylchloride (3 ml) was added and reaction mixture was stirred at 40° C. for 4 h. Solvent was evaporated under vacuum. Precipitate was dissolved to methylenechloride. Solution was cooled to 0-3° C. This solution and aluminium chloride (2.5g) were mixed slowly over 4 hours keeping temperature under 4° C. After mixing reaction mixture was stirred at room temperature for 2 h. Reaction was quenched by pouring to dilute ice cold hydrochloric acid. Layers were separated and water solution was extracted with methylenechloride. Combined organic layers were washed with water, dried and evaporated. Crude product was triturated to give 2.9 g of 6-Methoxy-2-phenylindan-1-one. 1H-NMR (400 MHz, d6-DMSO): 7.56 (d, 1H), 7.35-7.23 (m, 4H), 7.18-7.13 (m, 3H), 4.02 (dd, 1H, J 3.9, 8.0 Hz), 3.82 (s, 3H), 3.61 (dd, 1H, J 8.0, 17.2 Hz), 3.11 (dd, 1H, J 3.9, 17.2 Hz).

reactant | 3-(4-methoxyphenyl)-2-phenylpropionic acid | 4.6 g | COC1=CC=C(C=C1)CC(C(=O)O)C1=CC=CC=C1 | C16H16O3
reactant | Thionylchloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylenechloride | 26 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
product | 6-Methoxy-2-phenylindan-1-one | 2.9 g | COC1=CC=C2CC(C(C2=C1)=O)C1=CC=CC=C1 | C16H14O2
